US05364881
Nα -(tert-Butyloxycarbonyl)-Nδ (benzyloxycarbonyl)-L-ornithine tert-butyl ester:
Nδ -(Benzyloxycarbonyl-L-ornithine tert-butyl ester (7.50 g, 23.3 mmol) was dissolved in 27 ml of methylene chloride, and the solution was cooled to 0° C. To that solution was added dropwise tert-butyl pyrocarbonate (5.87 g, 26.9 mmol) in 10 ml of methylene chloride. The reaction mixture was stirred at 0° C. for 1 hour, and stirring was continued for 3 additional hours at room temperature. The solvent was evaporated at reduced pressure and the oily residue was chromatographed on a column of silica gel (25 cm×30 mm) using hexane:ethyl acetate (3:1) as solvent. Fractions of approximately 5 ml were collected, and those containing product were identified by thin layer chromatography (see below). Chromatographic fractions containing product were pooled and evaporated to a thick oil by rotary evaporation at reduced pressure. The yield was 8.63 gm (93.5%). 1H NMR (DCCl3) δ1.44 (s,9H), 1.46 (s,9H), 1.5-1.9 (m,4H), 3.23 (t,2H), 4.17 (t,1H), 4.88 (s,1H broad), 5.09 (s,2H and s,1H broad) 7.35 (s,5H).

reactant | Benzyloxycarbonyl-L-ornithine tert-butyl ester | 23.3 mmol, 7.50 g | C(C)(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCCN)=O | C17H26N2O4
reactant | tert-butyl pyrocarbonate | 26.9 mmol, 5.87 g | C(OC(C)(C)C)(=O)OC(=O)[O-]
solvent | methylene chloride | 27 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Nα -(tert-Butyloxycarbonyl)-Nδ (benzyloxycarbonyl)-L-ornithine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCNC(=O)OCC1=CC=CC=C1)=O | C22H34N2O6
